US07060844B2
To a slurry of [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (430 mg, 1.40 mmol) in MeOH (100.0 ml) at room temperature was added 0.5M NaOMe/MeOH (2.80 ml). The solution was rapidly stirred for 15 minutes and then rotary evaporated (combined 116 mg of product obtained from previously run reaction). The solid was chased with MeOH (20 ml), and then with EtOAc (2×15 ml) to give sodium [(3E)-3-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-dihydro-2-benzofuran-1-yl]acetate as a yellow solid (576 mg, 100%).

reactant | [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 1.40 mmol, 430 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CC(=O)O | C18H13NO4
reactant | NaOMe MeOH | 0.5M, 2.80 ml | C[O-].[Na+].CO
reactant | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 100.0 ml | CO | CH4O
solvent | MeOH | 20 ml | CO | CH4O
product | sodium [(3E)-3-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-dihydro-2-benzofuran-1-yl]acetate | 576 mg, 100% | O=C\1NC2=CC=CC=C2/C1=C/1\OC(C2=C1C=CC=C2)CC(=O)[O-].[Na+] | InChI=1S/C18H13NO4.Na/c20-15(21)9-14-10-5-1-2-6-11(10)17(23-14)16-12-7-3-4-8-13(12)19-18(16)22;/h1-8,14H,9H2,(H,19,22)(H,20,21);/q;+1/p-1/b17-16+;
